US04935430
(b) 2-Methylimidazo[4,5-c]pyridine-N-oxide
Following the method of Chem. Pharm. Bull., 12, 866 (1964), a solution of 2-methylimidazo[4,5-c]pyridine (5.65 g, 42.5 mmol) in 30% aqueous hydrogen peroxide (15 ml) and glacial acetic acid was stirred at 60° C. for 6 days. The volatiles were removed under reduced pressure and the residue was dissolved in ethanol and treated with solid anhydrous potassium carbonate. The solid was filtered off, washed with ethanol, and the filtrate was concentrated under reduced pressure. The crude product was purified by flash chromatography eluting with 10-30% water in acetone. Fractions containing the product were concentrated under reduced pressure, redissolved in isopropanol/toluene, 1:1 (200 ml) and re-evaporated to give the title compound, as a hygroscopic solid, (2.94 g, 46%).

reactant | 2-methylimidazo[4,5-c]pyridine | 42.5 mmol, 5.65 g | CC=1NC2=C(C=NC=C2)N1 | C7H7N3
reactant | hydrogen peroxide | 15 ml | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Methylimidazo[4,5-c]pyridine-N-oxide | CC1=[N+](C2=C(C=NC=C2)N1)[O-] | C7H7N3O
